US08067445B2
Step 8: {5-Chloro-2′-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-4′-methylsulfanyl-biphenyl-3-yl}-acetic acid
{5-Chloro-2′-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-4′-fluoro-biphenyl-3-yl}-acetic acid ethyl ester (0.118 g, 0.28 mmol) and sodium thiomethoxide (0.043 g, 0.62 mmol) were combined in DMF (2 mL) and stirred at 100° C. overnight. Analytical LCMS indicated that the fluoride hadn't been displaced, but the ethyl ester had hydrolyzed. Additional sodium thiomethoxide (0.040 g, 0.57 mmol) was added, and the reaction was stirred overnight at 100° C. Analytical LCMS indicated that the reaction was complete, so the mixture was acidified with 1N aqueous HCl (4 mL) and worked-up with EtOAc and H2O. The combined organic layers were dried, filtered, and concentrated, and the residue was purified by preparative HPLC to give the title compound. M+H is 418.

reactant | {5-Chloro-2′-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-4′-fluoro-biphenyl-3-yl}-acetic acid ethyl ester | 0.28 mmol, 0.118 g | C(C)OC(CC=1C=C(C=C(C1)Cl)C1=C(C=C(C=C1)F)CN(CC)C(=O)C1CC1)=O | C23H25ClFNO3
reactant | sodium thiomethoxide | 0.62 mmol, 0.043 g | C[S-].[Na+]
reactant | fluoride | [F-]
reactant | sodium thiomethoxide | 0.57 mmol, 0.040 g | C[S-].[Na+]
reactant | HCl | 1N, 4 mL | Cl | ClH
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | {5-Chloro-2′-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-4′-methylsulfanyl-biphenyl-3-yl}-acetic acid | ClC=1C=C(C=C(C1)C1=C(C=C(C=C1)SC)CN(CC)C(=O)C1CC1)CC(=O)O | C22H24ClNO3S
